US08039469B2
Step 3: Synthesis of 4-[4-morpholin-4-yl-6-(3-oxa-8-azabicyclo[3.2.1]oct-8-yl)-1,3,5-triazin-2-yl]aniline
To a 10 mL vial were added 8-(4-chloro-6-morpholino-1,3,5-triazin-2-yl)-3-oxa-8-azabicyclo[3,2,1]octane (311 mg, 1.0 mmol), 4-aminophenylboronic acid pinacol ester (328 mg, 1.5 mmol), Pd(PPh3)4 (58 mg, 5 mol %), 1,2-dimethoxyethane (DME, 2.5 mL) and 2M Na2CO3 aqueous solution (1.5 mL). The resulting mixture was heated at 130° C. for 30 min in microwave oven. The reaction mixture was cooled to room temperature. The aqueous phase was extracted with EtOAc, and the combined organic phases were dried over (MgSO4). The solvent was removed under reduced pressure and the residue was subjected to HPLC separation to give the title compound as off-white solid (280 mg, 76% yield). MS (ESI) m/z 369.2.

reactant | 8-(4-chloro-6-morpholino-1,3,5-triazin-2-yl)-3-oxa-8-azabicyclo[3,2,1]octane | 1.0 mmol, 311 mg | ClC1=NC(=NC(=N1)N1CCOCC1)N1C2COCC1CC2 | C13H18ClN5O2
reactant | 4-aminophenylboronic acid pinacol ester | 1.5 mmol, 328 mg | NC1=CC=C(C=C1)B1OC(C)(C)C(C)(C)O1 | C12H18BNO2
reactant | Na2CO3 | 2M, 1.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxyethane | 2.5 mL | COCCOC | C4H10O2
product | 4-[4-morpholin-4-yl-6-(3-oxa-8-azabicyclo[3.2.1]oct-8-yl)-1,3,5-triazin-2-yl]aniline | 280 mg, 76% yield | N1(CCOCC1)C1=NC(=NC(=N1)N1C2COCC1CC2)C2=CC=C(N)C=C2 | C19H24N6O2
